* source TP3_EP
X_X1         N06786 N09172 N00779 MCR5167
X_X2         N00779 N08329 N00833 MCR5167
X_X3         N00793 N08632 N00833 MCR5167
X_X4         N06786 N08552 N00793 MCR5167
X_X5         N06786 N08833 N00772 MCR5167
X_X6         N00772 N08844 N00833 MCR5167
I_I4         N00779 N09172 DC 0Adc AC 0Aac
+PULSE 0 1 {tn4+td} 1u 1u 500u {1/frec}
I_I1         N00833 N08329 DC 0Adc AC 0Aac
+PULSE 0 1 {tn1+td} 1u 1u 500u {1/frec}
I_I2         N00833 N08632 DC 0Adc AC 0Aac
+PULSE 0 1 {tn2+td} 1u 1u 500u {1/frec}
I_I5         N00793 N08552 DC 0Adc AC 0Aac
+PULSE 0 1 {tn5+td} 1u 1u 500u {1/frec}
I_I6         N00772 N08833 DC 0Adc AC 0Aac
+PULSE 0 1 {tn6+td} 1u 1u 500u {1/frec}
R_R1         N06786 N00833  10 TC=0,0 
V_V1         N00779 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 0
V_V2         N00793 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 120
V_V3         N00772 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 -120
I_I3         N00833 N08844 DC 0Adc AC 0Aac
+PULSE 0 1 {tn3+td} 1u 1u 500u {1/frec}
.PARAM  tn6=18.33m tn1=1.66m tn3=8.33m tn2=15m alpha=135 frec=50 vmax=311 td=
+ {alpha*20m/360} tn5=5m tn4=11.66m
